US07989460B2
7-{[1-(tert-Butoxycarbonyl)piperidin-4-yl]methoxy}-6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]quinazoline (5.8 g) was suspended in dichloromethane (40 ml) and cooled with an ice bath. TFA (17 ml) was added and the reaction mixture was stirred at this temperature for 1 hour. The volatiles were removed under vacuum and the residue triturated under water and dichloromethane. The pH was made basic to 12.5 with a 30% aqueous solution of sodium hydroxide while cooling with an ice bath. Extraction was done with a mixture of dichloromethane and methanol. The combined extracts were washed in turn with water and brine and dried over magnesium sulphate. The solvent was evaporated under vacuum and the residue was triturated under ether, filtered and dried to give 6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]-7-[(piperidin-4-yl)methoxy]quinazoline (3.6 g).

reactant | 7-{[1-(tert-Butoxycarbonyl)piperidin-4-yl]methoxy}-6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]quinazoline | 5.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C(=CNC2=CC1)C)OC | C29H34N4O5
reactant | TFA | 17 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]-7-[(piperidin-4-yl)methoxy]quinazoline | 3.6 g | COC=1C=C2C(=NC=NC2=CC1OCC1CCNCC1)OC=1C=C2C(=CNC2=CC1)C | C24H26N4O3
